US06096758
C4. 2-Thienylmethyl (2-chloromethyl-3-methylphenyl)carbamate
2-Chloromethyl-1-isocyanato-3-methylbenzene (2.5 g) and thiophenemethanol (1.57 g) are combined and stirred at RT. When crystallization commences, petroleum ether 50/70 (20 ml) is added and the suspension is stirred for 16 h at RT. After filtration and washing with diethyl ether, 2.57 g (63%) of the title compound are obtained as a solid of m.p. 111-114° C.

reactant | 2-Chloromethyl-1-isocyanato-3-methylbenzene | 2.5 g | ClCC1=C(C=CC=C1C)N=C=O | C9H8ClNO
reactant | thiophenemethanol | 1.57 g | S1C(=CC=C1)CO | C5H6OS
product | 2-Thienylmethyl (2-chloromethyl-3-methylphenyl)carbamate | ClCC1=C(C=CC=C1C)NC(OCC=1SC=CC1)=O | C14H14ClNO2S
